US07687491B2
(27f) Methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 23 (23g) using {5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methanol (0.14 g, 0.43 mmol) that was obtained in Example 27 (27e), carbon tetrabromide (0.29 g, 0.86 mmol), triphenylphosphine (0.23 g, 0.86 mmol), methyl 3-azetidinecarboxylate hydrochloride (98 mg, 0.65 mmol), and N,N-diisopropylethylamine (0.22 ml, 1.3 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:1 to 3:1) as the eluent to afford the title compound (0.12 g) in a yield of 66% as a colourless oily product.

reactant | {5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methanol | 0.43 mmol, 0.14 g | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1C)CO)C | C20H23N3O2
reactant | carbon tetrabromide | 0.86 mmol, 0.29 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.86 mmol, 0.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.65 mmol, 98 mg | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.3 mmol, 0.22 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methyl)azetidine-3-carboxylate | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1C)CN1CC(C1)C(=O)OC)C | C25H30N4O3
